US04927956
(36.6 g, 0.30 mol) of 2,6-dimethylphenol are mixed in an Hastelloy C autoclave with 0.315 mol of acetic anhydride and 9 mols of hydrogen fluoride. The temperature is raised to 50° C. and the reaction runs for 3 hours. After extraction and wash, 47.4 g of a gray to purple solid mass of 3,5-dimethyl-4-hydroxyacetophenone is obtained. This solid is then esterified by refluxing with 4 mols of acetic anhydride for 19 hours. After removal of acetic acid and acetic anhydride by vacuum distillation the 3,5-dimethyl-4-acetoxyacetophenone is flash distilled to yield 47.7 g of a slightly yellow liquid. 0.1 mol of the 3,5-dimethyl-4-acetoxyacetophenone, 1.2 g of 5% Pd/C as catalyst and 100 ml ethanol are mixed in an autoclave and the autoclave is charged with hydrogen gas at a pressure of 215-220 mm Hg PSIG and the reaction is run for about 2 1/2 hours at a temperature of about 25°-30° C. Additional catalyst is added as needed. The catalyst is then removed and the ethanol evaporated to yield 21.5 g of a colorless oil which is 1-(3',5'-dimethyl-4'-acetoxyphenyl)ethanol. 0.168 mol of 1-(3',5'-dimethyl-4'-acetoxyphenyl)ethanol is added to a flask with 0.35 g KHSO4 and 0.5 g t-butyl catechol. The flask is heated to 185° to 190° C. at 1.5 to 2.0 mm Hg. A colorless liquid is distilled. After the addition of 0.15 g of t-butyl catechol, and redistillation, 26.1 g of 3,5- dimethyl-4-acetoxystyrene monomer is produced. The compound has a boiling point of 90°-91° C. at 0.5 mm of Hg and the yield is 81.8%.

reactant | 1-(3',5'-dimethyl-4'-acetoxyphenyl)ethanol | CC=1C=C(C=C(C1OC(C)=O)C)C(C)O | C12H16O3
reactant | 1-(3',5'-dimethyl-4'-acetoxyphenyl)ethanol | 0.168 mol | CC=1C=C(C=C(C1OC(C)=O)C)C(C)O | C12H16O3
reactant | KHSO4 | 0.35 g | OS(=O)(=O)[O-].[K+]
reactant | t-butyl catechol | 0.5 g | C(C)(C)(C)C1=C(C(O)=CC=C1)O | C10H14O2
product | 3,5- dimethyl-4-acetoxystyrene | 26.1 g, yield is 81.8% | CC=1C=C(C=C)C=C(C1OC(C)=O)C | C12H14O2
